US08119676B2
tert-Butyl [6-cyano-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydro-benzimidazol-1-yl]phenylacetate (XIIc)
1.63 g (7.87 mmol) of 4-methoxybenzenesulfonyl chloride were added to a solution of 2.50 g (7.16 mmol) of tert-butyl (6-cyano-2-oxo-2,3-dihydro-benzimidazol-1-yl)phenylacetate (XIc), 1.98 ml (14.3 mmol) of triethylamine and a catalytic amount of DMAP in tetrahydrofuran (60 ml) while stirring at room temperature, and the mixture was then stirred at room temperature for 16 h. The reaction solution was mixed with water and extracted with ethyl acetate (3×60 ml). The combined organic phases were washed with water and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (mobile phase gradient 10-40% ethyl acetate in cyclohexane). Yield: 2.90 g (78%) of colorless solid

reactant | 4-methoxybenzenesulfonyl chloride | 7.87 mmol, 1.63 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | tert-butyl (6-cyano-2-oxo-2,3-dihydro-benzimidazol-1-yl)phenylacetate | 7.16 mmol, 2.50 g | C(#N)C=1C=CC2=C(N(C(N2)=O)C(C(=O)OC(C)(C)C)C2=CC=CC=C2)C1 | C20H19N3O3
reactant | triethylamine | 14.3 mmol, 1.98 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | tert-Butyl [6-cyano-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydro-benzimidazol-1-yl]phenylacetate | C(#N)C=1C=CC2=C(N(C(N2S(=O)(=O)C2=CC=C(C=C2)OC)=O)C(C(=O)OC(C)(C)C)C2=CC=CC=C2)C1 | C27H25N3O6S
